US07750156B2
0.93 g of aniline, 2.24 g of 1,4-cyclohexanedione and 1.4 ml of triethylamine were heated with stirring in 15 ml of ethanol at 50° C. to 60° C. and reacted in air for 8 hours. During the reaction, ethanol was added as needed. After concentrating the reaction mixture under reduced pressure, the resultant was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) and 0.50 g of N-(4-hydroxyphenyl)aniline was obtained (yield 27.4%).

reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | 1,4-cyclohexanedione | 2.24 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(4-hydroxyphenyl)aniline | 0.50 g, yield 27.4% | OC1=CC=C(C=C1)NC1=CC=CC=C1 | C12H11NO
